US07265121B2
1-(Indole-6-carbonyl-D-valinyl)-4-(1-methylpiperidin-4-yl)piperidine Hydrochloride
1-(Indole-6-carbonyl-D-valinyl)-4-(1-methylpiperidin-4-yl)piperidine (3.4 g, 8.03 mmol) is suspended in 0.2 N aqueous HCl (40.2 mL, 8.03 mmol) and sonicated. The resulting solution is lyophilized to give 3.64 g (98%) of the title compound.

reactant | 1-(Indole-6-carbonyl-D-valinyl)-4-(1-methylpiperidin-4-yl)piperidine | 8.03 mmol, 3.4 g | N1C=CC2=CC=C(C=C12)C(=O)N[C@H](C(C)C)C(=O)N1CCC(CC1)C1CCN(CC1)C | C25H36N4O2
reactant | HCl | 8.03 mmol, 0.2 N, 40.2 mL | Cl | ClH
product | 1-(Indole-6-carbonyl-D-valinyl)-4-(1-methylpiperidin-4-yl)piperidine Hydrochloride | 3.64 g, 98% | Cl.N1C=CC2=CC=C(C=C12)C(=O)N[C@H](C(C)C)C(=O)N1CCC(CC1)C1CCN(CC1)C | InChI=1S/C25H36N4O2.ClH/c1-17(2)23(27-24(30)21-5-4-20-6-11-26-22(20)16-21)25(31)29-14-9-19(10-15-29)18-7-12-28(3)13-8-18;/h4-6,11,16-19,23,26H,7-10,12-15H2,1-3H3,(H,27,30);1H/t23-;/m1./s1
